Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Cipro
 
Attending: ___.
 
Chief Complaint:
abdominal pain with bloody bowel movements 
 
Major Surgical or Invasive Procedure:
Colonoscopy ___

 
History of Present Illness:
___ w/ afib on eliquis and hx of hemorrhoids presents after 
several episodes of BRBPR at home. The patient reports that she 
has a long history of GI motility issues. On ___ morning 
she woke up at 4am with stomach cramps, and had an episode of 
loose brown stool. She is usually constipated, so this was 
unusual for her. She went to work that day, but began to have 
stomach cramping, with additional loose stools, as well as 
nausea. No fevers or chills. Reports that the pain was the worse 
in the LLQ. She then noticed bright red blood in the toilet with 
clots. Reports that this was on top of and separate from the 
stool. Reports lightheadedness and dizziness. No chest pain or 
shortness of breath. She then presented to the ED.  
 In the ED, initial vitals: 99.2, 81, 119/47, 16, 99% RA  
 Initially, the patient's hgb was found to be 13.4, with 
rechecks at 11.4 and 11.9. Found to have a white count of 15 
with 90% neutrophils. Normal renal function, u/a negative.  
 - Imaging notable for:  
 - Patient given 1.2L NS and unasyn 3g IV  
 - Vitals prior to transfer: 98.3, 71, 110/46, 17, 94% RA  
 On arrival to the floor, pt reports feeling tired after being 
in the ED all day. Feels that lightheadedness is better, but 
notes that she has been in bed and so it is hard to tell. 
Continues to have some crampy abdominal pain.
 
Past Medical History:
 - atrial fibrillation, on apixaban  
 - hypertension  
 - anxiety  
 - hemorrhoids  
 - diverticulosis with sigmoid haustral hypertrophy seen on a 
virtual colonoscopy in ___  
 
Social History:
___
Family History:
 - Mother - ___  
 - Father - lung cancer  
 - Brother - CVA  
 - Brother - melanoma  
 
Physical ___:
Admission Exam:
 Vitals: 98.5, 72, 97/55, 18, 96% RA  
 General: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, neck supple, 
JVP not elevated, no LAD  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Abdomen: soft, tender to palpation in LLQ, non-distended, bowel 
sounds present, no rebound tenderness or guarding, no 
organomegaly  
 Ext: Warm, well perfused, no cyanosis or edema  
 Skin: Without rashes or lesions  
 Neuro: A&Ox3. Grossly intact.  

Discharge exam:
Vitals: 98.2 (98.8), BP 100-120/50-70, HR 65-72, RR 18, O2 95% 
RA 
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, neck supple, JVP 
not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, 
Abdomen: soft, slightly tender to palpation in LLQ (much 
improved from yesterday), non-distended
Ext: Warm, well perfused, no cyanosis, trace edema bilaterally  
Skin: Without rashes or lesions  
Neuro: A&Ox3. Grossly intact.
 
Pertinent Results:
Admission labs: 
___ 04:10PM BLOOD WBC-15.0*# RBC-4.49 Hgb-13.4 Hct-40.9 
MCV-91 MCH-29.8 MCHC-32.8 RDW-12.6 RDWSD-41.7 Plt ___
___ 04:10PM BLOOD Neuts-90.4* Lymphs-4.0* Monos-4.7* 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-13.57* AbsLymp-0.60* 
AbsMono-0.70 AbsEos-0.00* AbsBaso-0.03
___ 04:10PM BLOOD ___ PTT-31.1 ___
___ 04:10PM BLOOD Glucose-146* UreaN-17 Creat-0.8 Na-134 
K-4.6 Cl-100 HCO3-21* AnGap-18
___ 07:10AM BLOOD Calcium-8.8 Phos-3.4 Mg-1.8
___ 04:10PM BLOOD ALT-17 AST-23 AlkPhos-106* TotBili-0.9

Discharge labs:
___ 08:05AM BLOOD WBC-5.4 RBC-3.75* Hgb-11.4 Hct-34.9 
MCV-93 MCH-30.4 MCHC-32.7 RDW-12.6 RDWSD-42.9 Plt ___
___ 08:05AM BLOOD ___ PTT-31.6 ___
___ 08:05AM BLOOD Glucose-91 UreaN-6 Creat-0.6 Na-142 K-3.6 
Cl-104 HCO3-21* AnGap-21*
___ 08:05AM BLOOD Calcium-9.1 Phos-3.6 Mg-2.0

MICROBIOLOGY:
___ 6:00 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

IMAGING / STUDIES
___ COLONOSCOPY:
Impression: Erythema, friability and congestion in the colon 
(biopsy)
Normal mucosa in the colon (biopsy)
Diverticulosis of the sigmoid colon
Otherwise normal colonoscopy to cecum 

Recommendations: - Area of erythema, friability and exudates 
noted in a continuous fashion between 35 and 40 cm. This could 
be due to mild ischemia and was the likely source of bleeding
- Will contact you with biopsy results  

___ CTA ABD/PELVIS:
Long segment of uncomplicated colitis involving the distal 
transverse, 
descending, and sigmoid colon. Etiologies are most likely 
infectious or 
inflammatory as the vasculature is grossly patent. 

PATHOLOGY
___ GI MUCOSAL BIOPSY:
PATHOLOGIC DIAGNOSIS:
1. "40 cm" biopsy:
Colonic mucosa, no diagnostic abnormalities recogni
zed.
2. "36 cm" biopsy:
- Colonic mucosa with focal crypt atrophy and basal
 crypt regenerative changes consistent with
ischemic type colitis. See note.
- Additional levels examined.
3. "30 cm" biopsy:
Colonic mucosa, no diagnostic abnormalities recogni
zed.
4. Rectal biopsy:
Colonic mucosa, no diagnostic abnormalities recogni
zed.
Note: Differential diagnoses include vascular cause
s of ischemia, certain infections (e.g. C.difficile
,
Enterohemorrhagic E.coli) and drug effect. Clinical
 correlation is recommended. 

 
Brief Hospital Course:
Ms. ___ is ___ woman with a history of afib on eliquis and 
hemorrhoids who presented after several episodes of BRBPR at 
home, found to have LLQ pain and ischemic colitis on CTA and 
colonoscopy. 

# Lower GI Bleed
# Ishcemic colitis: She presented with LLQ and BRBPR for one 
day, and had 2 episodes of stool streaked with blood and blood 
clots. Found to have evidence of colitis on CTA. She was given 
one dose of ceftriaxone/flagyl due to initial concern for 
diverticulitis. Vasculature was found to be patent, but on 
colonoscopy was found to have erythema, friability, congestion 
and exudates with contact bleeding in the colon, consistent with 
ischemic colitis, likely from transient hypotension. Colonoscopy 
also noted severe non-bleeding diverticula. Biopsies were taken, 
which were consistent with ischemic colitis. Her hemoglobin 
remained stable throughout admission. We held her losartan, 
diltiazem and apixiban in case of severe bleed. The losartan and 
diltiazem were restarted on discharge. The apixaban should be 
restarted at her previous dose on ___. 

# Afib: Held home apixaban in setting of GI bleed. Diltiazem was 
held in the setting of concern for hypotension. She should 
resume diltiazem upon discharge, and she should resume apixiban 
on ___. 

# Hypertension: Held home losartan in setting of bleed and 
concern for hypotension. She will resume losartan upon 
discharge. 

# CODE STATUS: Full confirmed 
# CONTACT: ___, husband (___)

Transitional issues:
- Restart apixaban on ___ (as bleeding risk is highest in 
first 7 days)
- Resume the rest of home medications upon discharge
- F/up with PCP and GI as an outpatient
- OTC bowel regimen to prevent constipation
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Apixaban 5 mg PO BID 
2. ClonazePAM 0.25 mg PO DAILY:PRN anxiety 
3. Diltiazem Extended-Release 120 mg PO DAILY 
4. fluorouracil 5 % topical DAILY 
5. Losartan Potassium 50 mg PO DAILY 

 
Discharge Medications:
1.  ClonazePAM 0.25 mg PO DAILY:PRN anxiety  
2.  Diltiazem Extended-Release 120 mg PO DAILY  
3.  fluorouracil 5 % topical DAILY  
4.  Losartan Potassium 50 mg PO DAILY  
5. HELD- Apixaban 5 mg PO BID  This medication was held. Do not 
restart Apixaban until ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Ishemic colitis
Diverticulosis

Secondary diagnosis:
Atrial fibrillation
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted for a lower GI bleed. We performed a 
colonoscopy which showed evidence of inflammation and bleeding 
consistent with "ischemic colitis." This is common and is caused 
by transient, and sometimes asymptomatic, decreases in blood 
pressure. It is not dangerous, but you will still have a follow 
up appointment with the gastroenterologists to ensure continued 
resolution of your symptoms. 
  During the colonoscopy, biopsies were taken (which GI will 
follow-up on when you see them in clinic), and diverticula 
(outpouchings of colon wall) were noted. You should resume 
taking losartan and diltiazem once you leave the hospital. You 
should restart the apixiban on ___, but not before that as 
it may increase your risk of bleeding. We have arranged for 
follow-up with Gastroenterology and your primary care physician. 


It is very important that you try to limit straining and 
constipation. Eat a high-fiber diet and use over the counter 
senna and Colace as needed to keep your stool soft and moving. 
If you do not have a bowel movement for more than 3 days, please 
take miralax. If you do not have a bowel movement for more than 
4 days, please see a physician.

It has been a pleasure taking care of you. We wish you all the 
best.

You ___ team.
 
Followup Instructions:
___